US09388189B2
2-(3-Fluoro-5-methoxybenzyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
1-(Bromomethyl)-3-fluoro-5-methoxybenzene (250 mg, 1.14 mmol) was dissolved in 3.4 mL tert-butanol and 308 μl water. Bis(pinacolato)diboron (348 mg, 1.37 mmol), di-tert-butyl(methyl)phosphonium tetrafluoroborate (8 mg, 0.03 mmol) and potassium phosphate tribasic (485 mg, 2.28 mmol) were added and the mixture was submitted to three vacuum-argon cycles. Tris(dibenzylideneacetone)dipalladium(0) (10 mg, 0.01 mmol) was added under argon conditions. The mixture was stirred at 60° C. overnight. The reaction was poured into a saturated ammonium chloride solution and extracted twice with ethyl acetate. The organics were combined and washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure to obtain 269 mg (68% yield, 77% purity) of the title compound as an oil.

reactant | 1-(Bromomethyl)-3-fluoro-5-methoxybenzene | 1.14 mmol, 250 mg | BrCC1=CC(=CC(=C1)OC)F | C8H8BrFO
reactant | Bis(pinacolato)diboron | 1.37 mmol, 348 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | di-tert-butyl(methyl)phosphonium tetrafluoroborate | 0.03 mmol, 8 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C)C(C)(C)C
reactant | potassium phosphate tribasic | 2.28 mmol, 485 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tert-butanol | 3.4 mL | C(C)(C)(C)O | C4H10O
solvent | water | 308 μl | O | H2O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(3-Fluoro-5-methoxybenzyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 68% yield | FC=1C=C(CB2OC(C(O2)(C)C)(C)C)C=C(C1)OC | C14H20BFO3
